US06114361
Step E: (3S, 5R)-5-benzyloxycarbamoyl-3-(4-methoxyphenyl)-2-oxopyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of (2R, 4S)-4-(4-methoxyphenyl)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (305 mg, 0.91 mmol), diisopropylethylamine (0.35 mL, 2.0 mmol) and O-benzylhydroxylamine hydrochloride (160 mg, 1.0 mmol) in methylene chloride (20 mL) was added (benztriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluoroborate (443 mg, 1.0 mmol). The reaction was stirred at room temperature overnight. After dilution with methylene chloride, the mixture was washed with aqueous saturated sodium bicarbonate solution, water and brine. The solution was dried over magnesium sulfate and concentrated to a white solid from which the title compound (294 mg, 73%) was isolated by flash chromatography eluting with 25% hexane in ethyl acetate.

reactant | (2R, 4S)-4-(4-methoxyphenyl)-5-oxopyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 0.91 mmol, 305 mg | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1=O)C1=CC=C(C=C1)OC)C(=O)O | C17H21NO6
reactant | diisopropylethylamine | 2.0 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-benzylhydroxylamine hydrochloride | 1.0 mmol, 160 mg | Cl.C(C1=CC=CC=C1)ON
reactant | (benztriazol-1-yloxy)tris(dimethylamino)phosphonium hexafluoroborate | 1.0 mmol, 443 mg | B([O-])([O-])F.B([O-])([O-])F.B([O-])([O-])F.B([O-])([O-])F.B([O-])([O-])F.B([O-])([O-])F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.N2(N=NC1=C2C=CC=C1)O[P+](N(C)C)(N(C)C)N(C)C.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.N2(N=NC1=C2C=CC=C1)O[P+](N(C)C)(N(C)C)N(C)C.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.N2(N=NC1=C2C=CC=C1)O[P+](N(C)C)(N(C)C)N(C)C.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.N2(N=NC1=C2C=CC=C1)O[P+](N(C)C)(N(C)C)N(C)C.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.N2(N=NC1=C2C=CC=C1)O[P+](N(C)C)(N(C)C)N(C)C.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C.N2(N=NC1=C2C=CC=C1)O[P+](N(C)C)(N(C)C)N(C)C
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (3S, 5R)-5-benzyloxycarbamoyl-3-(4-methoxyphenyl)-2-oxopyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C([C@@H](C[C@@H]1C(NOCC1=CC=CC=C1)=O)C1=CC=C(C=C1)OC)=O | C24H28N2O6
